* Z:\mnt\design.r\spice\examples\1267-ADJ.asc
R1 N017 N021 1K
C1 N021 0 3300p
C2 N020 0 270p
C3 N019 0 270p
R2 N018 N022 1K
C4 N022 0 3300p
M§Q1 N011 N016 0 0 FDS6680A
L1 N011 N012 33µ
R3 N012 OUT2 50m
C5 OUT2 0 220µ Rser=0.1 x2
D1 0 N011 1N5818
M§Q2 N010 N015 0 0 FDS6680A
M§Q3 N010 N005 IN IN FDC638P
L2 N010 N009 20µ
R4 N009 OUT1 50m
C6 OUT1 0 220µ Rser=0.1 x2
D2 0 N010 1N5818
C7 N009 OUT1 1000p
Rload2 OUT2 0 5
Rload1 OUT1 0 5
V1 IN 0 25
M§Q4 N011 N006 IN IN FDC638P
C8 N006 N008 .1µ
C9 N001 N004 .15µ
C10 N001 0 3.3µ
C11 N001 0 3.3µ
C12 N005 N007 .1µ
C13 N012 OUT2 1000p
C14 N001 N003 .15µ
XU1 MP_01 IN N003 N005 N007 N015 N023 N001 N019 N017 0 N013 OUT1 N009 N018 N020 OUT2 N012 N024 0 N001 0 N016 N008 N006 N004 N002 OUT2 LTC1267-ADJ
R7 0 N023 1K
R8 N023 OUT1 3K
R9 N024 0 1K
R10 N024 OUT2 3K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m
.lib LTC1267-ADJ.sub
.backanno
.end
